US05998433
a) Synthesis of 6-(4-phenethylbenzoyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 1.078 g (3.253 mmol) of the above 6-(4-phenethylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 10 ml of acetic acid, 0.41 ml (4.88 mmol) of pyrrolidine and 0.40 g (4.88 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl-acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 6-(4-phenethylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 3.253 mmol, 1.078 g | C(CC1=CC=CC=C1)C1=CC=C(C(=O)N2CC3=C(CC2)C=CO3)C=C1 | C22H21NO2
reactant | pyrrolidine | 4.88 mmol, 0.41 ml | N1CCCC1 | C4H9N
reactant | formaldehyde | 4.88 mmol, 0.40 g | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-(4-phenethylbenzoyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | C(CC1=CC=CC=C1)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCC3)C=C1 | C27H30N2O2
